US09029545B2
Ethyl 4-amino-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate
A mixture of ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate (Description 15) (1.52 g, 3.61 mmol), tert-butyl carbamate (0.845 g, 7.22 mmol), Pd2(dba)3 (0.066 g, 0.072 mmol), xantphos (0.084 g, 0.144 mmol) and Cs2CO3 (3.53 g, 10.82 mmol) in 1,4-dioxane (25 mL) was heated at 110° C. for ca. 6 h. After cooling to RT, the mixture was filtered through celite and the filtrate was concentrated. The residue was purified by chromatography, eluting with a gradient of 30-60% ethyl acetate in cyclohexane, to give the title compound (1.54 g). LCMS (A) m/z: 458 [M+1]+, Rt 1.44 min (acidic).

reactant | ethyl 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 3.61 mmol, 1.52 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)Br | C18H17BrN2O3S
reactant | tert-butyl carbamate | 7.22 mmol, 0.845 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | Cs2CO3 | 10.82 mmol, 3.53 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.072 mmol, 0.066 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.144 mmol, 0.084 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | Ethyl 4-amino-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 1.54 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)NC(=O)OC(C)(C)C | C23H27N3O5S
